US06054448
iii) 3-Cyanomethylcyclobutanecarboxylic acid
An aqueous solution of sodium hydroxide (1M, 295 ml) was added dropwise over a period of 30 minutes to a stirred solution of methyl 3-cyanomethylcyclobutane carboxylate (21.0 g, 0.20 mol) in methanol (300 ml). After 3 hours, the reaction mixture was washed with hexane (2×75 ml) and the aqueous phase acidified with aqueous hydrochloric acid (2M, 150 ml) to pH5. The aqueous was extracted with ethyl acetate (2×100 ml) and the combined extracts dried, filtered and evaporated to a yellow oil (21 g). The crude product was purified by chromatography on flash silica eluting with diethyl ether to give the title compound as an oil.

reactant | sodium hydroxide | 1M, 295 ml | [OH-].[Na+]
reactant | methyl 3-cyanomethylcyclobutane carboxylate | 0.20 mol, 21.0 g | C(#N)CC1CC(C1)C(=O)OC | C8H11NO2
solvent | methanol | 300 ml | CO | CH4O
product | 3-Cyanomethylcyclobutanecarboxylic acid | C(#N)CC1CC(C1)C(=O)O | C7H9NO2
